US07608254B2
A vigorously stirred solution of 6.0 g (24.3 mmol) (S)-2-benzyloxydec-9-ene in 300 ml of a 1:1 mixture of water and tert-butanol was cooled to −10° C. After addition of 29.2 g AD-Mix β (i.e. 1.2 g per mmol alkene) the mixture was stirred at 4° C. for 40 h. Subsequently, 30.0 g (158 mmol) sodium disulfite were added, and the mixture was stirred at 20° C. for another hour. The brownish suspension was extracted three times with 250 ml ethyl acetate. The organic layers were combined, dried over magnesium sulphate, and concentrated in vacuo. Flash chromatography (ethyl acetate and hexane 1:1) furnished 4.2 g (15 mmol, 62%) (2R,9S)-9-benzyloxydecan-1,2-diol as a colorless oil.

reactant | (S)-2-benzyloxydec-9-ene | 24.3 mmol, 6.0 g | C(C1=CC=CC=C1)O[C@@H](C)CCCCCCC=C | C17H26O
reactant | water | O | H2O
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
reactant | sodium disulfite | 158 mmol, 30.0 g | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,9S)-9-benzyloxydecan-1,2-diol | 15 mmol, 4.2 g, 62% | C(C1=CC=CC=C1)O[C@H](CCCCCC[C@H](CO)O)C | C17H28O3
